US04496572
A mixture of 3-methylbenzo[b]thiophene-6-carboxylic acid methyl ester (1.03 g), N-bromosuccinimide (0.89 g), azobisisobutyronitrile (0.2 g) and carbon tetrachloride (25 ml) was heated under reflux for 2 hours and then cooled. The mixture was diluted with a few ml. of chloroform, washed with water, dried (Na2SO4) and evaporated to give a solid which was crystallized from ethyl acetate/petrol (b.p. 60°-80° C. to give 3-bromomethylbenzo[b]thiophene-6-carboxylic acid methyl ester (0.80 g), m.p. 108°-110° C.

reactant | 3-methylbenzo[b]thiophene-6-carboxylic acid methyl ester | 1.03 g | COC(=O)C=1C=CC2=C(SC=C2C)C1 | C11H10O2S
reactant | N-bromosuccinimide | 0.89 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.2 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethylbenzo[b]thiophene-6-carboxylic acid methyl ester | 0.80 g | COC(=O)C=1C=CC2=C(SC=C2CBr)C1 | C11H9BrO2S
